US06313071B1
A mixture comprising 1.00 g of methyl N-(5-bromo-2-fluorobenzyl)carbamate, 0.75 g of 3,3-dimethyl-1-butyne, 0.06 g of dichlorobis(triphenylphosphine)palladium, 0.02 g of copper(I) iodide, 1.29 g of triethylamine and 2.7 ml of N,N-dimethylformamide, was stirred at room temperature for 48 hours in a nitrogen atmosphere. This reaction solution was poured into a saturated sodium chloride aqueous solution and extracted with ethyl acetate, followed by drying over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography to obtain 0.40 g of methyl N-[5-(3,3-dimethyl-1-butynyl)-2-fluorobenzyl]carbamate as brown crystals.

reactant | methyl N-(5-bromo-2-fluorobenzyl)carbamate | 1.00 g | BrC=1C=CC(=C(CNC(OC)=O)C1)F | C9H9BrFNO2
reactant | 3,3-dimethyl-1-butyne | 0.75 g | CC(C#C)(C)C | C6H10
reactant | triethylamine | 1.29 g | C(C)N(CC)CC | C6H15N
reactant | sodium chloride | [Cl-].[Na+]
catalyst | dichlorobis(triphenylphosphine)palladium | 0.06 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.02 g | [Cu]I
solvent | N,N-dimethylformamide | 2.7 ml | CN(C=O)C | C3H7NO
product | methyl N-[5-(3,3-dimethyl-1-butynyl)-2-fluorobenzyl]carbamate | 0.40 g | CC(C#CC=1C=CC(=C(CNC(OC)=O)C1)F)(C)C | C15H18FNO2
